US04510085
t-butoxycarbonyl-N-(2-adamantyl)-L-phenylalaninamide
To a cold (ca -78°) solution of 106 g (0.4 mole) of t-butoxycarbonyl-L-phenylalanine (Boc-Phe) and 88 ml (ca. 0.8 mole) of N-methylmorpholine in 300 ml of dichloromethane, stirred over 30 g of 4A molecular sieves, was added dropwise 52.4 ml (ca. 0.4 mole) of isobutyl chloroformate. The mixture was allowed to warm slowly to 5° and then recooled to about -78°. After adding 75 g (0.4 mole) of 2-aminoadamantane, the mixture was allowed to warm to room temperature and to stir overnight. The mixture was clarified by filtration and washed with several portions of 0.5M sodium bisulfate. The organic layer was heated at reflux over activated charcoal, filtered, dried over sodium sulfate, and concentrated in vacuo to dryness. The resultant title compound was used without further purification in subsequent reactions.

reactant | t-butoxycarbonyl-L-phenylalanine | 0.4 mole, 106 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | N-methylmorpholine | ca. 0.8 mole, 88 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | ca. 0.4 mole, 52.4 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-aminoadamantane | 0.4 mole, 75 g | NC1C2CC3CC(CC1C3)C2 | C10H17N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | t-butoxycarbonyl-N-(2-adamantyl)-L-phenylalaninamide | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NC1C2CC3CC(CC1C3)C2 | C24H34N2O3
